US07332516B2
5-[1-(2-Fluoro-biphenyl-4-yl)-1-methyl-ethyl]-2H-tetrazole
A mixture of 2-(2-fluoro-biphenyl-4-yl)-2-methyl-propionitrile (100 mg, 0.418 mmol), azidotrimethylsilane (222 μL, 1.672 mmol) and dibutyltin oxide (20 mg) in dry toluene (2.5 mL) was heated under microwave irradiation in a sealed vessel at 150° C. for 1000 seconds. The solution was then diluted with EtOAc, washed with water, the organics separated, dried (MgSO4), filtered and evaporated to dryness. The residue was purified by column chromatography (EtOAc) to afford the title compound, 5-[1-(2-Fluoro-biphenyl-4-yl)-1-methyl-ethyl]-2H-tetrazole as a colorless powder. 1H NMR (500 MHz, CD3OD) δ 7.50 (2H, m), 7.40-7.46 (3H, m), 7.35 (1H, m), 7.05-7.12 (2H, m), 1.87 (6H, s). LCMS(EI) 283.1 (M+H)+, 324.2 (M+Na+H3O)+.

reactant | 2-(2-fluoro-biphenyl-4-yl)-2-methyl-propionitrile | 0.418 mmol, 100 mg | FC1=C(C=CC(=C1)C(C#N)(C)C)C1=CC=CC=C1 | C16H14FN
reactant | azidotrimethylsilane | 1.672 mmol, 222 μL | N(=[N+]=[N-])[Si](C)(C)C | C3H9N3Si
reactant | dibutyltin oxide | 20 mg | C(CCC)[Sn](CCCC)=O
solvent | toluene | 2.5 mL | C1(=CC=CC=C1)C | C7H8
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 5-[1-(2-Fluoro-biphenyl-4-yl)-1-methyl-ethyl]-2H-tetrazole | FC1=C(C=CC(=C1)C(C)(C)C=1N=NNN1)C1=CC=CC=C1 | C16H15FN4
